Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
=
================================================================
HOSPITALIST ADMISSION NOTE  
Date of admission: ___ 
=
================================================================
PCP: ___
CC: ___ pain, dyspnea, cough

HISTORY OF THE PRESENTING ILLNESS:  
Mr. ___ is a ___ year old gentleman with a history of ?CAD
and COPD who presents with chest pain, dyspnea, and cough. He
notes he has had substernal chest pain for 3 weeks with
associated dyspnea and chest pain. Chest pain and dyspnea are
non-exertional though he has not been very active. He notes that
at rest he is relatively asymptomatic though chest pain and
dyspnea occurs mainly when he coughs. He states that he coughs
"almost every minute" and the chest pain and dyspnea is 
primarily
worsened by cough. He has been coughing for the past 3 weeks.

Of note he was in a 7 hr car ride with his daughter coming from
___ yesterday. Given worsening symptoms he presented to his
PCP and was referred to the ED after EKG changes revealed ST
depression II, III, aVF. He denies fevers, chills, nausea,
vomiting, bowel changes, urinary changes, abdominal pain,
paresthesias or weakness. 

In the ED, initial vitals were: 98.7 86 127/88 16 100% RA
Labs were notable for WBC 15.6 otherwise WNL CBC, chemistry WNL,
trop x1 negative, D-dimer 445, lactate 1.2. 
Pneumonia was considered given cough, leukocytosis and he was
given levofloxacin.  
He was seen by cardiology who recommended admission for ischemic
workup/stress test.

Vitals on transfer: 98.9 64 121/76 18 97% RA
He received nitroglycerin and aspirin prior to transfer

On the floor, he is lying comfortably. He is accompanied by his
daughter who assists with the history above. 

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. States that he's lost 40
pounds since ___. Endorses mild headache, denies sinus
tenderness, rhinorrhea or congestion. Denies nausea, vomiting,
diarrhea, constipation or abdominal pain. No recent change in
bowel or bladder habits. No dysuria. Denies arthralgias or
myalgias.  
 
Past Medical History:
COPD
Lumbar radiculitis
 
Social History:
___
Family History:
Mother, deceased, hypertension
Father, deceased, MI at age ___
Brother, healthy
Sister, healthy
 
Physical Exam:
Vital Signs: 97.8 PO 144 / 85 64 18 99 RA  
General: Thin appearing gentleman, lying in bed in NAD 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Decreased air movement throughout, no wheeze  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding
MSK: No rib tenderness with palpation  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: Alert and oriented x3  
 
Pertinent Results:
___ 09:43PM   cTropnT-<0.01
___ 03:25PM   LACTATE-1.2
___ 01:00PM   GLUCOSE-101* UREA N-19 CREAT-0.8 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-28 ANION GAP-14
___ 01:00PM   estGFR-Using this
___ 01:00PM   cTropnT-<0.01
___ 01:00PM   proBNP-224
___ 01:00PM   D-DIMER-445
___ 01:00PM   WBC-15.6*# RBC-4.06* HGB-13.2* HCT-41.4 
MCV-102* MCH-32.5* MCHC-31.9* RDW-12.4 RDWSD-46.5*
___ 01:00PM   NEUTS-79.3* LYMPHS-10.7* MONOS-7.9 EOS-1.4 
BASOS-0.1 IM ___ AbsNeut-12.37* AbsLymp-1.67 AbsMono-1.23* 
AbsEos-0.22 AbsBaso-0.02
___ 01:00PM   PLT COUNT-161
___ 01:00PM   ___ PTT-29.5 ___

CT CHEST:
FINDINGS: 
 
The thyroid gland is homogeneous.  There is no mediastinal or 
hilar
lymphadenopathy.  Heart size is normal and there is no 
pericardial effusion. 
The great vessels are normal in caliber.  The esophagus is 
normal in course
and caliber.  Limited images of the upper abdomen demonstrate a 
simple cyst in
left kidney.
 
There are mild secretions within the upper thoracic trachea as 
well as mucous
plugging in the left lower lobe. In addition to mucoid impaction 
of a left
lower lobar, posterior segment airways, there is heterogeneous 
alveolar
opacification, representing pneumonia.
There is diffuse centrilobular and paraseptal emphysema, upper 
lobe
predominant. Dystrophic calcification in the right upper lobe is 
associated
with postsurgical changes.
 
Osseous structures are intact without evidence acute fracture.
 
IMPRESSION:
 
 
1. Heterogeneous left lower lobe consolidation compatible with 
pneumonia.
2. Diffuse, upper lobe predominant emphysema.
 This preliminary report was reviewed with Dr. ___, 
___
radiologist.

ETT MIBI:
IMPRESSION: Non-anginal type symptoms. Uninterpretable ST 
segments for
ischemia in the setting of prominent voltage and IVCD/LBBB. 
Abnormal
heart rate response in association with pre-syncopal type 
symptoms (see
note). Nuclear report sent separately.

IMPRESSION:
 
1. Normal myocardial perfusion.  Anterior wall defect most 
consistent with
attenuation.
 
2. Normal left ventricular cavity size.  Moderate systolic 
dysfunction with
global hypokinesis and abnormal septal motion consistent with 
LBBB or
ventricular interaction.  
 
3. Increased right ventricular uptake, consistent with pulmonary 
hypertension. 

DC LABS:

___ 06:10AM BLOOD WBC-8.1 RBC-3.41* Hgb-11.0* Hct-34.2* 
MCV-100* MCH-32.3* MCHC-32.2 RDW-12.1 RDWSD-45.2 Plt ___
___ 06:10AM BLOOD Glucose-113* UreaN-22* Creat-1.1 Na-140 
K-3.9 Cl-103 HCO3-25 AnGap-16
 
Brief Hospital Course:
___ is a ___ year old gentleman with a history of 
COPD who presents with chest pain, dyspnea, and subjective 
fevers, admitted for treatment of possible pneumonia and 
ischemic workup.

Acute bacterial PNA:
COPD:
CT confirmed LLL consolidation and in conjunction with symptoms 
was consistent with CAP.  He had been initiated on Levofloxacin 
and is clinically improved.  His underlying COPD is also noted 
on imaging and undoubtedly contributes to his respiratory 
symptoms.  He was discharged to complete a course of 
Levofloxacin and was initiated on Advair and albuterol.  Pulm 
follow up is recommended

Chest pain:
Abnormal EKG:
Atypical CP likely related to PNA, but underlying CAD is of 
consideration.  Trop negative and BNP wnl.  EKG is c/w LVH.  
Echo with depressed EF.  NO evidence of diabetes and LDL well 
controlled.  ETT MIBI with abnormal Stress portion with 
presyncope after 4.25min, junctional rhythm and drop in HR and
BP.  This is of unclear significance and could be concerning for 
underlying CAD.  Cardiology was consulted and did not feel that 
he needed a cath.  He likely has conduction disease but is not 
requiring urgent evaluation or intervention.  THey recommended 
outpatient cardiology follow up.  Pacemaker could be considered 
in the future depending on his future cardiac symptoms.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO OCCASIONALLY:PRN pain 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH QID:PRN sob 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puffs inhaled four 
times a day Disp #*1 Inhaler Refills:*0 
2.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/dose 1 
puff inhaled twice a day Disp #*1 Disk Refills:*0 
3.  Levofloxacin 750 mg PO DAILY 
take one dose on ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*1 
Tablet Refills:*0 
4.  Aspirin 325 mg PO OCCASIONALLY:PRN pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bacterial PNA
COPD
Abnormal stress test

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

You were admitted for evaluation of shortness of breath, cough, 
and pneumonia.  You were treated with antibiotics.  Please 
continue the course prescribed.  Please follow up closely with 
your PCP next week.  You will need a referral to see a 
cardiologist.
 
Followup Instructions:
___